US07915424B2
2-Fluoro-5-iodo-N-methylbenzamide
Add methylamine hydrochloride (0.57 g, 8.4 mmol) and triethylamine (2.17 mL, 15.5 mmol) to a solution of 2-fluoro-5-iodobenzoyl chloride (2.0 g, 7.0 mmol) in dichloromethane (100 mL) at 0° C. Warm to room temperature and stir 20 h. Concentrate and purify by silica gel chromatography, eluting with a gradient of 75:25 to 60:40 hexanes:ethyl acetate, to give the title compound as a white solid (1.7 g, 87%).

reactant | methylamine hydrochloride | 8.4 mmol, 0.57 g | Cl.CN
reactant | triethylamine | 15.5 mmol, 2.17 mL | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro-5-iodobenzoyl chloride | 7.0 mmol, 2.0 g | FC1=C(C(=O)Cl)C=C(C=C1)I | C7H3ClFIO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-Fluoro-5-iodo-N-methylbenzamide | 1.7 g, 87% | FC1=C(C(=O)NC)C=C(C=C1)I | C8H7FINO
